US05723490
4-Piperidinecarboxamide (10.2 g, 78.0 mmol) in DMSO (10 mL) was treated with benzyl bromide (20.0 mL, 168 mmol). The mixture was diluted with EtOAc and washed with 1N aq. HCl, 5N aq. NaOH, dried over MgSO4, and concentrated to give 5.90 g (35%) of N-benzyl-4-piperidinecarboxamide. [1H]-NMR(CDCl3) consistent with structure.

reactant | 4-Piperidinecarboxamide | 78.0 mmol, 10.2 g | N1CCC(CC1)C(=O)N | C6H12N2O
reactant | benzyl bromide | 168 mmol, 20.0 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-benzyl-4-piperidinecarboxamide | 5.90 g, 35% | C(C1=CC=CC=C1)NC(=O)C1CCNCC1 | C13H18N2O
